US07183270B2
Part B. Preparation of 6-Chloro-2-propyl-quinazolin-4-ol
2-Butyrylamino-5-chloro-benzamide (1.08 g, 4.49 mmol, 1 eq.), 1.000 N NaOH (13.46 mL, 13.5 mmol, 3 eq.) and ethanol (10 mL) were mixed and stirred at rt for 15 minutes. The mixture was acidified to pH=2 with 1.000 N HCl. The mixture was extracted with ethyl acetate. Solids that did not dissolve were filtered and rinsed with diethyl ether to dry. Obtained 810 mg of a white solid product. LCMS detects (M+H)+=223.

reactant | 2-Butyrylamino-5-chloro-benzamide | 4.49 mmol, 1.08 g, 1 eq. | C(CCC)(=O)NC1=C(C(=O)N)C=C(C=C1)Cl | C11H13ClN2O2
reactant | NaOH | 13.5 mmol, 1.000 N, 13.46 mL, 3 eq. | [OH-].[Na+]
reactant | HCl | 1.000 N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-Chloro-2-propyl-quinazolin-4-ol | 810 mg | ClC=1C=C2C(=NC(=NC2=CC1)CCC)O | C11H11ClN2O
